US07893088B2
A solution of trans-methyl[4-(1-oxo-1,2-dihydroisoquinolin-6-yloxy)cyclohexyl]-carbamic acid tert-butyl ester (400 mg, 1.07 mmol) in dichloromethane (9 ml) and trifluoroacetic acid (1 ml) was stirred at ambient temperature for 1 hour. The mixture was concentrated in vacuo then purified by ion exchange chromatography to give trans-6-(4-methylaminocyclohexyloxy)-2H-isoquinolin-1-one, EI-MS: m/z=273.4 [M+H]+.

reactant | trans-methyl[4-(1-oxo-1,2-dihydroisoquinolin-6-yloxy)cyclohexyl]-carbamic acid tert-butyl ester | 1.07 mmol, 400 mg | C(C)(C)(C)OC(N([C@@H]1CC[C@H](CC1)OC=1C=C2C=CNC(C2=CC1)=O)C)=O | C21H28N2O4
solvent | dichloromethane | 9 ml | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
product | trans-6-(4-methylaminocyclohexyloxy)-2H-isoquinolin-1-one | CN[C@@H]1CC[C@H](CC1)OC=1C=C2C=CNC(C2=CC1)=O | C16H20N2O2
